US07008940B1
To a solution of 1,4-dimethoxy-2,3-dimethyl-5-(2-nitro-1-propenyl)benzene (2.51 g, 9.99 mmol) in THF (35 mL) was added lithium aluminum hydride (1.0 g, 26 mmol) under ice-cooling, and the mixture was heated to reflux for 6 hours. Hyflo Super-Cel® (5 g) was added to the reaction mixture, and water (1.5 mL) was added dropwise under ice-cooling. The resulting mixture was suspended in ethyl acetate, filtered, concentrated under the reduced pressure to obtain an oil. This was dissolved in acetonitrile (10 mL), a solution of diammonium cerium (IV) nitrate (10.9 g, 19.9 mmol) in acetonitrile (20 mL) and water (20 mL) was added dropwise under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with water, neutralized with sodium bicarbonate and extracted with ethyl acetate three times. The combined organic layers were washed with water and saturated brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to obtain the solid. This was dissolved in ethyl acetate, mixed with an aqueous solution of sodium hydrosulfite, shaken, and the precipitated solid was filtered to obtain 0.79 g of 2,3-dihydro-2,6,7-trimethyl-1H-indole-5-ol.

reactant | 1,4-dimethoxy-2,3-dimethyl-5-(2-nitro-1-propenyl)benzene | 9.99 mmol, 2.51 g | COC1=C(C(=C(C(=C1)C=C(C)[N+](=O)[O-])OC)C)C | C13H17NO4
reactant | lithium aluminum hydride | 26 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diammonium cerium (IV) nitrate | 19.9 mmol, 10.9 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
solvent | water | 1.5 mL | O | H2O
product | 2,3-dihydro-2,6,7-trimethyl-1H-indole-5-ol | 0.79 g, Yield 45% | CC1NC2=C(C(=C(C=C2C1)O)C)C | C11H15NO
